US04341718
α-Hydroxy-β-Phenoxy-N-(1-Methylethyl)-3-Methoxybenzenepropanamide
This compound was prepared from N-(1-methylethyl)-3-(3-methoxyphenyl)-2-oxiranecarboxamide (14.3 g.), phenol (6.0 g.), sodium hydride (50% oil dispersion, 3.2 g.), 18-crown-6 (1.8 g.), and acetonitrile (500 ml.) as described in Example 12. The compound obtained as an oil was used directly in the subsequent reaction.

reactant | N-(1-methylethyl)-3-(3-methoxyphenyl)-2-oxiranecarboxamide | 14.3 g | CC(C)NC(=O)C1OC1C1=CC(=CC=C1)OC | C13H17NO3
reactant | phenol | 6.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 3.2 g | [H-].[Na+]
reactant | 18-crown-6 | 1.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | α-Hydroxy-β-Phenoxy-N-(1-Methylethyl)-3-Methoxybenzenepropanamide | OC(C(=O)NC(C)C)C(C1=CC(=CC=C1)OC)OC1=CC=CC=C1 | C19H23NO4
